US05466692
Ethyl 3-(6-Methyl-2-methoxymethyl-3H-pyrimidin-4-on-5-yl)propionate
A mixture of NaOEt (0.088 mol) in EtOH (prepared from 2.0 g of Na and 70 mL of EtOH), methoxyacetamidine hydrochloride (5.4 g, 0.044 mol), and diethyl acetylglutarate (10.0 g, 0.044 mol) was heated under reflux for 24 h. The mixture was concentrated, taken up in water, acidified to pH 4 with conc. HCl, and extracted with CH2Cl2. The extracts were washed with brine, dried (MgSO4), and concentrated. Trituration with ether gave 4.6 g (42%) of product as an off-white solid, mp 87°-90° C.

reactant | NaOEt | 0.088 mol | CC[O-].[Na+]
reactant | methoxyacetamidine hydrochloride | 0.044 mol, 5.4 g | Cl.COCC(=N)N
reactant | diethyl acetylglutarate | 0.044 mol, 10.0 g | C(C)(=O)C(C(=O)OCC)CCC(=O)OCC | C11H18O5
solvent | EtOH | 70 mL, 2.0 g | CCO | C2H6O
product | Ethyl 3-(6-Methyl-2-methoxymethyl-3H-pyrimidin-4-on-5-yl)propionate | 4.6 g, 42% | CC1=C(C(NC(=N1)COC)=O)CCC(=O)OCC | C12H18N2O4
